Name:  ___)          Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Bactrim / Cephalexin / Nitrofurantoin / Dilantin 
Kapseal / Tegretol / Iodine-Iodine Containing / Phenobarbital / 
furosemide / Lyrica / ranitidine / gabapentin
 
Attending: ___.
 
Chief Complaint:
cc: diarrhea and back pain
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ with history of CAD s/p NSEMI, ESRD s/p reflux nephropathy 
s/p DDRT ___ on prednisone and tacrolimus, and recurrent UTIs 
who presents with diarrhea and pain. She is a poor historian and 
has difficulty recounting details of her medical history.
The patient reports she has had pain in her right groin, right 
hip and lower back which was severe over the weekend and brought 
her to the hospital. She reports the pain prevented her from 
sitting in her wheelchair and from sleeping. She initially 
reported this was new pain- on further questioning, and review 
of notes, it seems the patient has had right hip pain for a few 
months, with a negative xray while at rehab. She was recently 
seen in the pain clinic, who recommended obtaining right hip 
x-ray and considering joint infection. The patient denies pain 
with ROM of hip. She also complains of lower back pain, mostly 
in her sacrum. She was seen previously by a psychiatrist and was 
receiving spinal injections, but not recently.  The patient also 
reports she had been on Oxycontin 30mg BID which was stopped 
given her advanced age (on review of records seems it was 
stopped ___. At home, she has been taking Excedrin without 
aspirin three times a day for her pain. She has not been taking 
Tylenol at all and while prescribed oxycodone 2.5mg she was not 
taking it. 
She also reports diarrhea over the weekend. She does note that 
whenever she gets a UTI/pyelonephritis she gets diarrhea. She 
has difficulty quantifying how much diarrhea she has been having 
and it has resolved since arriving to the hospital. She denies 
dysuria or urinary frequency, but reports she does not usually 
have this when she has an infection. She denies fevers or 
chills. Denies nausea or vomiting. Denies chest pain or 
shortness of breath.

ROS: Remainder 12 point ROS reviewed and negative

 
Past Medical History:
1. s/p cadaveric Renal transplant: ___, ESRD ___ chronic  
reflux nephropathy, on prednisone and sirolimus; baseline Cr  
1.0-1.2  
2. Osteopenia ___ chronic steroid use.  
3. Osteonecrosis of feet c/b osteomyelitis  
4. CAD: NSTEMI ___, s/p cardiac cath without intervention  
5. Hyperlipidemia  
6. GERD  
7. s/p craniotomy for ICH (?intracranial aneurysm)  
8. s/p foot surgeries  
9. s/p cholecystecomy, s/p appendectomy  
10. Hx of c.diff 2 and ___ yrs ago  
11. Hx of MRSA osteo ___  
12. Cataract surgery  
___. HTN  
14. H/o DVT  
15. Anemia  
16. Panic disorder  
17. Polyneuropathy in renal disease  
18. Diastolic dysfunction  
19. Hypothyroidism  
20. Chronic low back pain  
21. Hearing loss of both ears  
22. Recent small intestinal adenoma with endoscopic resection 
c/b bowel performation requiring ex-lap in ___  
23. History of girldlestone procedure right hip
24. Paroxysmal atrial fibrillation
 
Social History:
___
Family History:
Son with DM. Father died at ___. Did not know mother. 
 
Physical Exam:
97.7 Bp: 130/778 HR: 85 R: 18 O2: 100% RA
Well appearing pale female, laying in bed in NAD
HEENT: MMM. No scleral icterus, EOMI
Lungs: Clear B/L on auscultation
___: irregular, S1 S2 present, no m/r/g
Abdomen: Obese, multiple surgical scars, no rebound or guarding. 
No inguinal LAD.
Ext: Chronic venous stasis changes, muscle wasting in feet. Full 
ROM of right hip, without pain. Straight leg test negative. 
Limited ROM of left hip
Neuro: AAOx3, some difficulty with details
Psych: Pleasant
 
Pertinent Results:
___ 10:40AM   tacroFK-<2.0*
___ 09:06PM   LACTATE-1.2
___ 09:04PM   GLUCOSE-85 UREA N-16 CREAT-1.1 SODIUM-140 
POTASSIUM-4.2 CHLORIDE-104 TOTAL CO2-21* ANION GAP-19
___ 09:04PM   estGFR-Using this
___ 09:04PM   WBC-5.9 RBC-3.58* HGB-9.7* HCT-33.6* MCV-94 
MCH-27.1 MCHC-28.9* RDW-17.8* RDWSD-61.2*
___ 09:04PM   NEUTS-66.7 ___ MONOS-4.4* EOS-0.3* 
BASOS-0.8 IM ___ AbsNeut-3.93 AbsLymp-1.53 AbsMono-0.26 
AbsEos-0.02* AbsBaso-0.05
___ 09:04PM   PLT COUNT-170
___ 06:30PM URINE  HOURS-RANDOM
___ 06:30PM URINE  UHOLD-HOLD
___ 06:30PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 06:30PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-10 BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 LEUK-LG
___ 06:30PM URINE  RBC-<1 WBC-23* BACTERIA-FEW YEAST-NONE 
EPI-<1

CT Abomen/Pelvis: ___
IMPRESSION: 
1. Interval increase in size of right lateral abdominal wall 
transversalis 
muscle incisional hernia containing small and large bowel loops 
and a small  portion of the inferior right hepatic lobe, without 
evidence of bowel  incarceration. 
2. Interval increase in size of simple cyst in the right lower 
quadrant 
transplant kidney.  The transplant kidney otherwise appears 
unremarkable 
without hydronephrosis. 
3. Unchanged pneumobilia. 
4. Extensive colonic diverticulosis. 
  

Renal Ultrasound: ___
FINDINGS:  
The right iliac fossa transplant renal morphology is normal. 
Specifically, 
the cortex is of normal thickness and echogenicity, pyramids are 
normal, there is no urothelial thickening, and renal sinus fat 
is normal. There is no hydronephrosis and no perinephric fluid 
collection. There is a 4.7 x 4.8 x 4.7 cm simple upper pole 
cyst. 
  
The resistive index of intrarenal arteries ranges from 0.69 to 
0.71, within the normal range. The main renal artery shows a 
normal waveform, with prompt systolic upstroke and continuous 
antegrade diastolic flow, with peak systolic velocity of 49.4 
cm/second. Vascularity is symmetric throughout transplant. The 
transplant renal vein is patent and shows normal waveform. 
IMPRESSION:   
Patent renal transplant vasculature. No hydronephrosis. 

 
1. No definite fracture of the right hip.  If strong clinical 
concern, 
recommend MRI for more sensitive evaluation. 
  
2. Unchanged appearance of the left hip status post apparent 
Girdlestone 
procedure and pseudoarticulation of the femur with the left 
iliac bone. 

___ 05:50AM BLOOD tacroFK-4.5*
 
Brief Hospital Course:
___ with history of renal transplant, chronic pain, CAD s/p 
NSTEMI and recurrent UTIs who presents with worsening right 
groin pain, hip pain and diarrhea which self resolved.

#Right groin/Hip pain
Given excellent ROM on exam, doubt hip pathology. Patient did 
have hernia on CT in ___ raising concern for incarcerated 
hernia, although not evident on exam. This may be exacerbation 
of chronic pain syndrome given history of pain.  Advised use of 
tlyenol at home and I spoke w PCP about exam and lack of need 
for further inpatient studies.  We agreed she can use low dose 
oxycodone if sleep impaired by pain and I reviewed ___ and 
last filled on ___.  Patient sopped lyrica recently.  No 
acute pathology on hip xray.  Will have f/u w pain center.  
Prior to discharge I wondered if she could have iliacus muscle 
tear or injury of other pelvic muscles though no known trauma 
and if sympotms do not resolve one could pursue this w MRI of 
pelvis or upper leg.  

#Pyuria: initiatlly given ceftriaxone but stopped as 3 species 
of contaminant grew on her urine culture rather than single 
uropathogen. Renal ultrasound unremarkable. 

#Diarrhea Now resolved without intervention

Chronic issues:
# S/P renal transplant in ___: Patent renal vasculature on  
ultrasound. Renal transplant fellow aware of admission. 
Creatinine better than recent baseline.
- continue home dose of prednisone, tacrolimus
  
# CAD: s/p NSTEMI ___ (no stent): 
 metprolol and ASA

#?paroxysmal atrial fibrillation
EKG reviewed seems to have PAC/PVCs
- will continue bblocker as above

# Hypothyroidism: 
Continue home levothyroxine 

# Anxiety: Continue clonazepam PRN
# GERD: Continue home omeprazole  
# Osteopenia: Continue home calcitriol  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acyclovir 400 mg PO Q12H 
2. Aspirin 81 mg PO DAILY 
3. Calcitriol 0.5 mcg PO DAILY 
4. ClonazePAM 0.5 mg PO BID:PRN anxiety 
5. Levothyroxine Sodium 125 mcg PO DAILY 
6. Lidocaine 5% Patch 1 PTCH TD QAM 
7. Omeprazole 40 mg PO DAILY 
8. OxycoDONE (Immediate Release)  5 mg PO Q6H:PRN pain 
9. PredniSONE 5 mg PO DAILY 
10. Rosuvastatin Calcium 40 mg PO QPM 
11. Tacrolimus 0.5 mg PO Q12H 
12. Acetaminophen 1000 mg PO Q8H 
13. Metoprolol Succinate XL 50 mg PO DAILY 
14. diclofenac sodium 1 % TOPICAL QID 

 
Discharge Medications:
1. Acetaminophen 1000 mg PO Q8H 
2. Acyclovir 200 mg PO Q12H 
3. Aspirin 81 mg PO DAILY 
4. Calcitriol 0.5 mcg PO DAILY 
5. ClonazePAM 0.5 mg PO BID:PRN anxiety 
6. Levothyroxine Sodium 125 mcg PO DAILY 
7. Metoprolol Succinate XL 50 mg PO DAILY 
8. Omeprazole 40 mg PO DAILY 
9. OxycoDONE (Immediate Release)  5 mg PO QHS:PRN pain 
RX *oxycodone 5 mg 1 tablet(s) by mouth at bedtime Disp #*24 
Tablet Refills:*0
10. PredniSONE 5 mg PO DAILY 
11. Rosuvastatin Calcium 40 mg PO QPM 
12. Tacrolimus 0.5 mg PO Q12H 
13. diclofenac sodium 1 % TOPICAL QID 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___ Diagnosis:
back and hip pain
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
you were hospitalized for evaluation of pain

at this time we do not have a clear known cause for your pain: 
it may be chronic musculoskeletal pain.  sometimes people can 
have a torn muscle in the groin/pelvis and this can be difficult 
to pick up especially given your history of hip surgery, 
depending on how you respond to medication and monitoring your 
doctor may decide on more testing...ask if you could have 
iliacus muscle tear?

one important thing is to bring all your pill bottles to next 
appointment and review what you should be taking and why
you did not have evidence of uti
 
Followup Instructions:
___